US06815447B2
N-[2-(4-Cyclohexylphenyl)-4-hydroxy-quinolin-6-yl]-acetamide
1.2 L of Dowtherm A was charged into a 2 L three neck round bottom flask equipped with a condenser, magnetic stirrer, thermocouple, heating mantle with a variable voltage controller, and a nitrogen inlet. The solvent was heated to 250° C. and 3-(4-acetylaminophenylamino)-3-(4-cyclohexylphenyl)-acrylic acid butyl ester 48 g (0.11 moles) was cautiously added in small portions. As portions were added gas was evolved and foaming occurred. Crystals of product began to form and adhere to the sides of the vessel. After all material had been added heating of the mixture was continued for 1 hour. The mixture was then cooled to room temperature and hexane added. A solid product was collected by vacuum filtration and washed with hexane. After drying in a vacuum oven, 35.7 g (90%) of product was recovered.

reactant | Dowtherm A | 1.2 L | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
reactant | 3-(4-acetylaminophenylamino)-3-(4-cyclohexylphenyl)-acrylic acid butyl ester | 0.11 moles, 48 g | C(CCC)OC(C=C(C1=CC=C(C=C1)C1CCCCC1)NC1=CC=C(C=C1)NC(C)=O)=O | C27H34N2O3
solvent | hexane | CCCCCC | C6H14
product | N-[2-(4-Cyclohexylphenyl)-4-hydroxy-quinolin-6-yl]-acetamide | C1(CCCCC1)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(=C1)O)NC(C)=O | C23H24N2O2
